US05401851
A solution of 4-(pyrrolidinosulfonyl)phenylbenzylether (10.0 g, 33.1 mmol) was dissolved in 100 mL of absolute ethanol. This solution was treated with 2.5 g of 10% Pd/C. The mixture was hydrogenated at 40 psi for 2 hours. The catalyst was then removed by passing the reaction mixture through a pad of celite. The filtrate was concentrated in vacuo to provide 6.8 g (90%) of 4-(pyrrolidinosulfonyl)-phenol as a white solid. MS.

reactant | 4-(pyrrolidinosulfonyl)phenylbenzylether | 33.1 mmol, 10.0 g | N1(CCCC1)S(=O)(=O)C1=CC=C(C=C1)C(C1=CC=CC=C1)OC(C1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)N1CCCC1 | C34H36N2O5S2
reactant | ethanol | 100 mL | C(C)O | C2H6O
catalyst | Pd/C | 2.5 g | [Pd] | Pd
product | 4-(pyrrolidinosulfonyl)-phenol | 6.8 g, 90% | N1(CCCC1)S(=O)(=O)C1=CC=C(C=C1)O | C10H13NO3S
